US04824839
A suspension of 8-methoxy-2-oxo-2,3,4,5-tetrahydro-1H-3-benzazepine (20.4 g, 0.105 m) in tetrahydrofuran (500 ml) was added to 1 M borane in tetrahydrofuran (300 ml) stirred at 5°. The mixture was heated to reflux for 2 hours, cooled, treated with 3N hydrochloric acid (300 ml), concentrated in vacuo to remove tetrahydrofuran and heated to reflux for 1 hour. The mixture was concentrated in vacuo, filtered and the filter cake was dissolved in methanol, heated to reflux, dried with magnesium sulfate and concentrated in vacuo to afford 7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride, m.p. 229°-231°.

reactant | 8-methoxy-2-oxo-2,3,4,5-tetrahydro-1H-3-benzazepine | 20.4 g | COC=1C=CC2=C(CC(NCC2)=O)C1 | C11H13NO2
reactant | borane | 1 M | B | BH3
reactant | hydrochloric acid | 3N, 300 ml | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.COC1=CC2=C(CCNCC2)C=C1 | InChI=1S/C11H15NO.ClH/c1-13-11-3-2-9-4-6-12-7-5-10(9)8-11;/h2-3,8,12H,4-7H2,1H3;1H
